US05434307
In a paar hydrogenation bottle was placed 0.92 g (4×10-3 mol) 12-oxododecanoic acid oxime, 10 mL methanol, and then 0.005 g (2.2×10-5 mol) platinum oxide (Adam's catalyst). The bottle was fitted to a paar high-pressure system, deaerated, then filled with hydrogen gas to maintain a pressure of about 3 atm for 1.5 hours with continuous shaking. After hydrogenation, 10 mL of methanol was added to the reaction mixture, then heated to gentle boiling to dissolve the product. The hot mixture was quickly filtered to remove suspension of black platinum, after which the filtrate on evaporation gave 0.85 g (92% yield) 12-aminododecanoic acid. Recrystallization was effected with ethanol/water mixture (1:1) to give 0.80 g (87% yield) 12-aminododecanoic acid (m.p. 184°-186° C, Lit. 185°-187° C.).

reactant | 12-oxododecanoic acid oxime | 4×10-3 mol, 0.92 g | O=CCCCCCCCCCCC(O)=NO | C12H23NO3
reactant | hydrogen | [H][H] | H2
reactant | methanol | 10 mL | CO | CH4O
reactant | methanol | 10 mL | CO | CH4O
catalyst | platinum oxide | 2.2×10-5 mol, 0.005 g | [Pt]=O
product | 12-aminododecanoic acid | 0.85 g, 92% yield | NCCCCCCCCCCCC(=O)O | C12H25NO2
